.SUBCKT BSS127_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.074

Rg     g1    g2     10
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 0.023  VTO=2.27  THETA=0  VMAX=1.5e5  ETA=0  LEVEL=3)
Rd     d2    d1a    275 TC=11m
.MODEL MVDR NMOS (KP=0.02 VTO=-1.4   LAMBDA=0.15)
Mr d1 d2a d1a d1a MVDR W=1u L=1u
Rx d2a d1a 1m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=650   M=0.5  CJO=4.92p  VJ=0.5V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=1p  N=1.2  RS=3325u  EG=1.12  TT=130n)
Rdiode  d1  21    5000m TC=0

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   18.8p
.MODEL     DGD    D(M=1   CJO=18.8p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    8.16p

.ENDS  BSS127_L0